US07737149B2
Sodium triacetoxyborohydride (5.30 g, 25.00 mmol) was added to ethyl 4-((3R,5S)-3,5-dimethylpiperazin-1-yl)benzoate (2.62 g, 10 mmol), and acetic acid (1.145 mL, 20.00 mmol) in methanol (15 mL) at 25° C. The resulting solution was stirred at ambient temperature for 18 h. The reaction mixture was quenched with saturated NaHCO3 (15 mL) to pH7 and the crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford an oil. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to dryness to afford ethyl 4-((3R,5S)-3,4,5-trimethylpiperazin-1-yl)benzoate (1.960 g, 70.9%) as a yellow oil. MS: m/z 277 (MH+).

reactant | Sodium triacetoxyborohydride | 25.00 mmol, 5.30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethyl 4-((3R,5S)-3,5-dimethylpiperazin-1-yl)benzoate | 10 mmol, 2.62 g | C[C@@H]1CN(C[C@@H](N1)C)C1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
reactant | acetic acid | 20.00 mmol, 1.145 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 15 mL | CO | CH4O
product | ethyl 4-((3R,5S)-3,4,5-trimethylpiperazin-1-yl)benzoate | 1.960 g, 70.9% | C[C@@H]1CN(C[C@@H](N1C)C)C1=CC=C(C(=O)OCC)C=C1 | C16H24N2O2
